US04892872
To a solution of 960 g of ferrous sulfate heptahydrate in 2 1 of hot water is added a solution of 130 g of 2-(2-carboxy-4-chloro-6-nitrophenoxy)propionic acid and 200 ml of aqueous concentrated ammonia solution in 480 ml of water under stirring. After stirring for 30 minutes, to the reaction mixture is twice added 480 ml of aqueous concentrated ammonia solution. While the reaction mixture becomes exothermic, stirring is continued for an hour. The resultant mixture is filtered through a celite layer under reduced pressure and washed with 2 1 of hot water twice. The filtrate is cooled and made acid with concentrated hydrochloric acid. The precipitated crystals are washed with water and dried to give 100 g of 6-chloro-3,4-dihydro-2 -methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid, melting at 319°-320° C. with decomposition.

reactant | 2-(2-carboxy-4-chloro-6-nitrophenoxy)propionic acid | 130 g | C(=O)(O)C1=C(OC(C(=O)O)C)C(=CC(=C1)Cl)[N+](=O)[O-] | C10H8ClNO7
reactant | ammonia | 200 ml | N | H3N
reactant | ammonia | 480 ml | N | H3N
solvent | water | 480 ml | O | H2O
product | 6-chloro-3,4-dihydro-2 -methyl-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 100 g | ClC=1C=C(C2=C(NC(C(O2)C)=O)C1)C(=O)O | C10H8ClNO4
